US07622508B2
a. Synthesis of acetic acid [benzyl-(2-hydroxyethl)carbamoyl]methyl ester
Benzylethanolamine (1.78 g, 11.8 mmol.) was weighed into a 25 mL round bottom flask and diluted with dichloromethane. N,N-Diisopropylethylamine (2.66 mL, 15.3 mmol) was added quickly via syringe and the reaction was cooled to 0° C. After stirring at 0° C. for 10 minutes, acetoxyacetyl chloride (1.26 mL, 11.8 mmol) was added dropwise via syringe. The reaction was stirred overnight and allowed to warm to room temperature. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride. The organic layer was separated and dried over anhydrous magnesium sulfate. The drying agent was removed via filtration and solvent was removed in vacuo to give crude title intermediate as a yellow oil. The crude material was chromatographed on silica gel using ethyl acetate as the mobile phase. Fractions were combined and solvent was removed in vacuo to give pure title intermediate as a clear oil (1.75 g, 59% yield). (m/z): [M+H]+ calcd for C13H17NO4 252.13, found 252.3.

reactant | Benzylethanolamine | 11.8 mmol, 1.78 g | C(C1=CC=CC=C1)C(O)CN | C9H13NO
reactant | N,N-Diisopropylethylamine | 15.3 mmol, 2.66 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetoxyacetyl chloride | 11.8 mmol, 1.26 mL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | acetic acid [benzyl-(2-hydroxyethl)carbamoyl]methyl ester | 1.75 g, 59% yield | C(C1=CC=CC=C1)N(C(=O)COC(C)=O)CCO | C13H17NO4
